US05684030
4-(5-Nitro-1H-benzoimidazol-2-ylsulfanylmethyl)-benzoic acid methyl ester
A mixture of 5-nitro-1H-benzoimidazol-2-thiol (1.95 g, 0.01 mol), 4-bromomethyl-benzoic acid methyl ester (2.29 g, 0.01 mol), triethylamine (2 mL), and ethanol (100 mL) was heated at reflux for a period of 4.5 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate and washed with water. The organic phase was evaporated. The residue was crystallized from ethyl acetate/hexane. The solid obtained was dissolved in methanol and the solution was saturated with hydrogen chloride. The methanol was evaporated. The residue was treated with ethyl acetate. The solid was collected to give the title compound (1.4 g, 41%) as a mono-hydrochloride, white solid, m.p. 228°-230° (dec.). Anal. Calcd. for C16H13N3O4S.HCl: C, 50.60; H, 3.72; N, 11.06. Found: C, 50.82; H, 3.68; N, 10.92. Mass spectrum (+FAB; [M+H]+) 344. 1H-NMR (DMSO-d6 ; 400 MHz) δ 8.32 (s, 1H), 8.06 (d, 1H), 7.88 (d, 2H), 7.62 (m, 3H), 5.0-7.4 f(br s, 4H), 4.67 (s, 2H), and 3.81 ppm (s, 3H).

reactant | 5-nitro-1H-benzoimidazol-2-thiol | 0.01 mol, 1.95 g | [N+](=O)([O-])C1=CC2=C(NC(=N2)S)C=C1 | C7H5N3O2S
reactant | 4-bromomethyl-benzoic acid methyl ester | 0.01 mol, 2.29 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(5-Nitro-1H-benzoimidazol-2-ylsulfanylmethyl)-benzoic acid methyl ester | 1.4 g, 41% | COC(C1=CC=C(C=C1)CSC1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-])=O | C16H13N3O4S
